US09376422B2
Methyl 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate
To a stirred solution of methyl 3-[ethyl(piperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate TFA salt (crude material, 5.30 g, 12.0 mmol) in CH2Cl2 (150 mL) and AcOH (10 mL) was added formaldehyde (15 mL, 44% aqueous solution) and sodium triacetoxyborohydride (6.40 g, 30.0 mmol). The reaction mixture was stirred at 23° C. for 2.5 days. Then saturated NaHCO3 was added and the mixture was separated. The aqueous layer was extracted with CH2Cl2 (3×50 mL) and the combined organic layers were concentrated in vacuo. The residue was purified by silica gel column chromatography (NH—SiO2 heptane/EtOAc=2/1) to give the titled compound as oil (1.20 cg, 28% yield). 1H-NMR (400 cMHz, CDCl3) δppm; 7.81 (br. s., 1H), 7.45 (d, J=2.0 Hz, 1H), 3.92 (s, 3H), 3.10 (q, J=7.0 Hz, 2H), 2.83 (m, 2H), 2.66-2.77 (m, 1H), 2.54 (s, 3H), 2.24 (s, 3H), 1.84-1.94 (m, 2H), 1.63-1.78 (m, 4H), 0.86 (t, J=7.0 Hz, 3H); MS (ES) [M+H] 359.1.

reactant | methyl 3-[ethyl(piperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate TFA salt | 12.0 mmol, 5.30 g | OC(=O)C(F)(F)F.C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C1CCNCC1
reactant | formaldehyde | 15 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 30.0 mmol, 6.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | Methyl 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate | 28% yield | C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C18H25F3N2O2
